US05256781
The preparation of 4'-[[[2-[(3-methylbutyl)amino]-4-quinazolinyl]amino]methyl][1,1'-biphenyl]-2-carboxylic acid.
To 10 mL of dioxane was added 0.159 g of 4'-[[[2-[(3-methylbutyl)amino]-4-quinazolinyl]amino]methyl][1,1'-biphenyl]-2-carboxylic acid methyl ester and 2 mL of 0.5N aqueous sodium hydroxide. The resulting solution was stirred at room temperature for 72 hours. All solvents were moved and the residue was neutralized with 0.1N hydrochloric acid. The resulting precipitate was collected, washed with water and dried. (0.14 g, 93%) (M.P.=195°-205° C., decomp): 1H NMR (DMSO-d6, 300 MHz) δ 8.43 (bs, 1H), 8.03 (m, 1H), 7.70 (m, 1H), 7.59 (m, 1H), 7.45 (m, 5H), 7.21 (m, 3H), 7.01 (m, 1H), 6.50 (bs, 1H), 4.78 (d, 2H), 3.50 (m, 2H), 1.60 (m, 1H), 1.40 (m, 2H), 0.85 (d, 6H); negative FAB MS m/e 439 (M-H). Anal. Calcd for C27H28N4O2.1/2 HCl: C, 70.69; N, 12.53. Found: C, 70.77; H, 6.20; N, 12.53.

reactant | 4'-[[[2-[(3-methylbutyl)amino]-4-quinazolinyl]amino]methyl][1,1'-biphenyl]-2-carboxylic acid methyl ester | 0.159 g | COC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CNC1=NC(=NC2=CC=CC=C12)NCCC(C)C | C28H30N4O2
reactant | sodium hydroxide | 0.5N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4'-[[[2-[(3-methylbutyl)amino]-4-quinazolinyl]amino]methyl][1,1'-biphenyl]-2-carboxylic acid | CC(CCNC1=NC2=CC=CC=C2C(=N1)NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C | C27H28N4O2
